US08067598B2
2-Methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-6,7-dihydro-thieno[3,2-c]pyridine
To a suspension of 762 mg (2.23 mmol) N-[2-(5-methyl-thiophen-2-yl)-ethyl]-3-(4-trifluoromethyl-phenyl)-propionamide in 10 mL acetonitrile was added 460 uL (4.91 mmol) POCl3. The mixture was heated to reflux for 1 h and the solvent was removed in vacuo. The residue was taken up in toluene and concentrated again in vacuo. The oil was dissolved in dichloromethane and was basified with sat. NaHCO3. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. 740 mg of the title compound was isolated which was used without further purification in the consecutive step.

reactant | N-[2-(5-methyl-thiophen-2-yl)-ethyl]-3-(4-trifluoromethyl-phenyl)-propionamide | 2.23 mmol, 762 mg | CC1=CC=C(S1)CCNC(CCC1=CC=C(C=C1)C(F)(F)F)=O | C17H18F3NOS
reactant | POCl3 | 4.91 mmol, 460 uL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-Methyl-4-[2-(4-trifluoromethyl-phenyl)-ethyl]-6,7-dihydro-thieno[3,2-c]pyridine | 740 mg | CC1=CC=2C(=NCCC2S1)CCC1=CC=C(C=C1)C(F)(F)F | C17H16F3NS
